US07825260B2
Under an argon atmosphere, a −70° C. solution of (S)-2-Isopropyl-3,6-dimethoxy-5-methyl-2,5-dihydro-pyrazine (652.5 μl, 3.291 mmol) in dry THF (7 ml) was treated with a solution of n-butyl lithium in n-hexane (2.1 ml of a 1.6M solution, 3.29 mmol). After stirring for 10 minutes a solution of 5-(2-iodo-ethyl)-2-pentyl-benzoxazole (753 mg, 2.19 mmol) in dry THF (5 ml) was added and the reaction mixture was stirred for 90 minutes at −65° C. followed by 2 hours at 0-5° C. The reaction was distributed between AcOEt and saturated aqueous ammonium chloride. The organic layer dried over MgSO4 and concentrated in vacuum. Silica-gel flash chromatography (pentane/diethyl ether 4/1) provided the crude 5-[2-((2R,5S)-5-Isopropyl-3,6-dimethoxy-2-methyl-2,5-dihydro-pyrazin-2-yl)-ethyl]-2-pentyl-benzoxazole. The crude product was dissolved in acetonitrile (21 ml) and treated with water (21 ml) and trifluoroacetic acid (450 μl) and stirred for 3 days at RT. The solvents were removed in vacuum and the title compound was obtained after reversed phase chromatography (Waters, C-18, eluent: gradient of water/acetonitrile containing 0.1% trifluoroacetic acid) as an amorphous solid. 1H-NMR (CDCl3) δ: 8.50 (s; 1H), 6.98 (s; 1H); 8.86/6.83 (2 broad singlets; 2H), 3.71 (s; 3H), 2.75-2.35 (m; 4H), 2.20 (broad s; 2H), 1.70 (broad s; 2H), 1.61 (s; 3H), 1.40-1.20 (m; 4H), 0.90 (m; 3H).

reactant | (S)-2-Isopropyl-3,6-dimethoxy-5-methyl-2,5-dihydro-pyrazine | 3.291 mmol, 652.5 μl | C(C)(C)[C@@H]1N=C(C(N=C1OC)C)OC | C10H18N2O2
reactant | n-butyl lithium | C(CCC)[Li]
reactant | 5-(2-iodo-ethyl)-2-pentyl-benzoxazole | 2.19 mmol, 753 mg | ICCC=1C=CC2=C(N=C(O2)CCCCC)C1 | C14H18INO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 7 ml | C1CCOC1 | C4H8O
solvent | n-hexane | CCCCCC | C6H14
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | 5-[2-((2R,5S)-5-Isopropyl-3,6-dimethoxy-2-methyl-2,5-dihydro-pyrazin-2-yl)-ethyl]-2-pentyl-benzoxazole | C(C)(C)[C@@H]1N=C([C@@](N=C1OC)(C)CCC=1C=CC2=C(N=C(O2)CCCCC)C1)OC | C24H35N3O3
